US04264600
Following the above procedure, 4,5-dichloro-o-phenylenediamine was reacted with 2-ketoglutaric acid in ethanol to yield 6,7-dichloro-3,4-dihydro-3-oxo-2-quinoxaline propionic acid. Reaction of the free acid with ethanol in the presence of BF3 etherate yielded the corresponding ethyl ester, β-(6,7-dichloro-3,4-dihydro-3-oxo-2-quinoxaline)propionic acid, ethyl ester melting at 183.5-184.5. The free acid had the following analysis.

reactant | 4,5-dichloro-o-phenylenediamine | ClC1=CC(=C(C=C1Cl)N)N | C6H6Cl2N2
reactant | 2-ketoglutaric acid | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | ethanol | C(C)O | C2H6O
product | 6,7-dichloro-3,4-dihydro-3-oxo-2-quinoxaline propionic acid | ClC=1C=C2NC(C(=NC2=CC1Cl)CCC(=O)O)=O | C11H8Cl2N2O3
